US08304557B2
N-(3-{[2-(acetylamino)[1,3]thiazolo[5,4-b]pyridin-5-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 28-2 and using N-{3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (199 mg, 0.523 mmol), N,N-dimethylacetamide (2 mL) and acetyl chloride (89.2 μL, 1.26 mmol) as starting materials, the title compound (125 mg, 57%) was obtained as a white solid.

reactant | N-{3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.523 mmol, 199 mg | NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C18H16N6O2S
reactant | acetyl chloride | 1.26 mmol, 89.2 μL | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | N-(3-{[2-(acetylamino)[1,3]thiazolo[5,4-b]pyridin-5-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 125 mg, 57% | C(C)(=O)NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C20H18N6O3S
